US07402595B2
2-benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
2-Benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (150 mg) was dissolved in DMF (3 ml) and methyl iodide (0.04 ml) and potassium carbonate (90 mg) were added at room temperature. The mixture was stirred for 12 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The solvent was dried over anhydrous sodium sulfate and evaporated under reduced pressure, and the obtained residue was crystallized from hexane to give the title compound (140 mg).

reactant | 2-Benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C30H23NO4
reactant | methyl iodide | 0.04 ml | CI | CH3I
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-benzyl-6-benzyloxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 140 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C31H25NO4
